US04225338
1-cyclopropyl-3-(3,5-dimethylphenyl)-urea
14.7 g of 3,5-dimethylphenylisocyanate were slowly added by a dropper upon stirring at a temperature of 28° C. to a solution of 5.7 g of cyclopropylamine in 200 ml diisopropylether. The formed precipitate was removed by suction after an hour, was washed with a small amount of diisopropylene and finally dried. There were thus obtained 18.9 g of 1-cyclopropyl-3-(3,5-dimethylphenyl)-urea (92.5% of the theoretical value) having a melting point of 169° C.

reactant | 3,5-dimethylphenylisocyanate | 14.7 g | CC=1C=C(C=C(C1)C)N=C=O | C9H9NO
reactant | cyclopropylamine | 5.7 g | C1(CC1)N | C3H7N
solvent | diisopropylether | 200 ml | C(C)(C)OC(C)C | C6H14O
product | 1-cyclopropyl-3-(3,5-dimethylphenyl)-urea | C1(CC1)NC(=O)NC1=CC(=CC(=C1)C)C | C12H16N2O
